US04775671
N-(2,4-Dimethoxybenzyl)glycine is prepared by reacting glycine with 2,4-dimethoxybenzaldehyde in the presence of sodium hydroxide, reducing with palladium-on-carbon in methanol and subsequently neutralizing with 2N hydrochloric acid. The aqueous solution obtained is concentrated. 18.6 g of the mixture of N-(2,4-dimethoxybenzyl)glycine and sodium chloride obtained are stirred at 80° and 90°, in each case for 1 hour, together with 60 ml of N,N-dimethylformamide and 10 g (50.6 mmol) of 6-chloroisatoic anhydride. The reaction mixture is evaporated and the residue is heated at 135°-140° for 5 hours in a high vacuum. The crystalline product is boiled in 90 ml of N,N-dimethylformamide, whereupon the mixture is poured into 400 ml of hot water. The mixture is left to cool to room temperature while stirring, then cooled to about 0° in an ice-bath, the product is filtered off under suction, rinsed with water and the material obtained is dissolved in 20 ml of hot N,N-dimethylformamide. After the addition of 150 ml of ethyl acetate the mixture is left to stand in an ice-bath for 1 hour, the product is filtered off under suction, rinsed with cold ethyl acetate and dried at 80° in vacuo. There is obtained 6-chloro-4-(2,4-dimethoxybenzyl)-3,4-dihydro-2H-1,4-benzodiazepine-2,5(1H)-dione of melting point 230°-231°.

reactant | glycine | NCC(=O)O | C2H5NO2
reactant | 2,4-dimethoxybenzaldehyde | COC1=C(C=O)C=CC(=C1)OC | C9H10O3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | methanol | CO | CH4O
catalyst | palladium-on-carbon | [Pd] | Pd
product | N-(2,4-Dimethoxybenzyl)glycine | COC1=C(CNCC(=O)O)C=CC(=C1)OC | C11H15NO4
